US08664203B2
26.3. 4-{2-[(2-Phenyl-thiazole-4-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester
This compound was prepared using a method analogous to that of Example 3, step 3.2, 2-phenyl-1.3-thiazole-4-carboxylic acid replacing intermediate 3.1 and intermediate 26.2 replacing piperazine-1-carboxylic acid butyl ester.

reactant | 2-phenyl-1.3-thiazole-4-carboxylic acid | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO2S
reactant | piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-{2-[(2-Phenyl-thiazole-4-carbonyl)-amino]-acetyl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)C=1N=C(SC1)C1=CC=CC=C1)=O | C21H26N4O4S
